US04525330
N,N'-bis(3-hexylundecyl)pyridine-2,5-dicarboxamide was prepared using the method of Example 1 from 3-hexylundecylamine and pyridine 2,5-dicarboxylic acid. The product which was a brown oil was not distilled but was analysed as being 92% of theoretical strength (based on MW 642) by titration of an aliquot in acetic acid with perchloric acid. It was made up as a 0.2M solution in AROMASOL H and tested for extraction of copper in the presence of chloride ion using the method of Examples 6 and 7. The results are given in Table 3. They indicated that this compound is a strong extractant for copper which would be best employed in extracting copper from solutions of relatively low chloride ion concentration and relatively low acidity.

reactant | 3-hexylundecylamine | C(CCCCC)C(CCN)CCCCCCCC | C17H37N
reactant | pyridine 2,5-dicarboxylic acid | N1=C(C=CC(=C1)C(=O)O)C(=O)O | C7H5NO4
product | N,N'-bis(3-hexylundecyl)pyridine-2,5-dicarboxamide | C(CCCCC)C(CCNC(=O)C1=NC=C(C=C1)C(=O)NCCC(CCCCCCCC)CCCCCC)CCCCCCCC | C41H75N3O2
